US05231216
Trans-2-(2'-t-butyloxycarbonylaminocyclohexyloxy) acetic acid
To a solution of trans-2-carboxymethoxy-cyclohexyl ammonium chloride (0.42 g, 2 mmoles) in dry dioxane, there were added triethylamine (0.61 g, 6 mmoles) and di-tert.-butyldicarbonate (0.52 g, 2.4 mmoles). The mixture was stirred for 6 hours at the temperature of 50° C. and then evaporated in vacuo. The residue was dissolved in water (5 ml), the solution was acidified with 10% citric acid to pH 2 and extracted with ethyl acetate (3×10 ml). The organic phase was dried with MgSO4, the drying agent was filtered off and the filtrate was evaporated. Thus, there were obtained 0.36 g (66%) of the title compound, melting point 205°-207° C.

reactant | trans-2-carboxymethoxy-cyclohexyl ammonium chloride | 2 mmoles, 0.42 g | [Cl-].C(=O)(O)CO[C@H]1[C@@H](CCCC1)[NH3+]
reactant | triethylamine | 6 mmoles, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | di-tert.-butyldicarbonate | 2.4 mmoles, 0.52 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Trans-2-(2'-t-butyloxycarbonylaminocyclohexyloxy) acetic acid | 0.36 g, 66% | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CCCC1)OCC(=O)O | C13H23NO5
